US07741321B2
To a solution of 4-bromo-N-methyl-benzene sulfonamide (24.9 g, 0.1 mol) and B(OiPr)3 (28.2 g, 0.15 mol) in THF (200 mL) was added n-BuLi (100 mL, 0.25 mol) at −70° C. The mixture was slowly warmed to 0° C., then 10% HCl solution was added until pH 3˜4. The resulting mixture was extracted with EtOAc. The organic layer was dried over Na2SO4, and evaporated under reduced pressure to give 4-(N-methylsulfamoyl)phenylboronic acid (22.5 g, 96%), which was used in the next step without further purification. 1H NMR (DMSO-d6, 300 MHz) δ 8.29 (s, 2H), 7.92 (d, J=8.1 Hz, 2H), 7.69 (d, J=8.4 Hz, 2H), 2.36 (d, J=5.1 Hz, 3H).

reactant | 4-bromo-N-methyl-benzene sulfonamide | 0.1 mol, 24.9 g | BrC1=CC=C(C=C1)S(=O)(=O)NC | C7H8BrNO2S
reactant | B(OiPr)3 | 0.15 mol, 28.2 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | n-BuLi | 0.25 mol, 100 mL | [Li]CCCC
reactant | HCl | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-(N-methylsulfamoyl)phenylboronic acid | 22.5 g, 96% | CNS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H10BNO4S
